US05550149
6-[7-(3,4-Dimethoxyphenyl)-7-[(4-methylphenyl)thio]heptyl]-5,6,7,8-tetrahydro-1,3-dioxolo[4,5-g]isoquinoline-2,2-dimethanol
A mixture of 0.31 g of diethyl-6-[7-(3,4-dimethoxyphenyl)-7-[(4-methylphenyl)thio]heptyl]-5,6,7,8-tetrahydro-1,3-dioxolo [4,5-g]isoquinoline dicarboxylate and 0.045 g of lithium borohydride in 20 mL of tetrahydrofuran is stirred at room temperature for 3 hours, poured into water and the solvent evaporated in vacuo. The resulting mixture is extracted with methylene chloride. The methylene chloride extract is dried, filtered and the filtrate is evaporated in vacuo to yield a yellow oil. This oil is purified by flash chromatography using 2% methyl alcohol in methylene chloride to yield 0.1 g of the desired product as a white foam.

reactant | diethyl-6-[7-(3,4-dimethoxyphenyl)-7-[(4-methylphenyl)thio]heptyl]-5,6,7,8-tetrahydro-1,3-dioxolo [4,5-g]isoquinoline dicarboxylate | 0.31 g | C(C)OC(=O)C1OC2=C(C=C3CCN(CC3=C2C(=O)OCC)CCCCCCC(SC2=CC=C(C=C2)C)C2=CC(=C(C=C2)OC)OC)O1 | C38H47NO8S
reactant | lithium borohydride | 0.045 g | [BH4-].[Li+]
reactant | water | O | H2O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 6-[7-(3,4-Dimethoxyphenyl)-7-[(4-methylphenyl)thio]heptyl]-5,6,7,8-tetrahydro-1,3-dioxolo[4,5-g]isoquinoline-2,2-dimethanol | 0.1 g | COC=1C=C(C=CC1OC)C(CCCCCCN1CC=2C=C3C(=CC2CC1)OC(O3)(CO)CO)SC3=CC=C(C=C3)C | C34H43NO6S
